US04983482
To a well-stirred solution of 8.8 grams of 2,7-bis(phenyl-m-tolylamino)-9,9-bis[2-(methoxycarbonyl)ethyl]fluorene in 150 milliliters of dried tetrahydrofuran under a nitrogen atmosphere was added in small portions 0.52 gram of lithium aluminum hydride over a period of 15 to 30 minutes. The reaction mixture was stirred at room temperature for two hours. Ten (10) percent aqueous sodium hydroxide solution was slowly added to the reaction mixture. The organic layer was separated and evaporated to dryness under reduced pressure. The residue was dissolved in methylene chloride, and washed several times with water. Evaporation of the dry methylene chloride solution provided a white solid which was recrystallized from isopropanol and water to yield 7.8 grams of pure 2,7-bis(phenyl-m-tolylamino)-9,9-bis(3-hydroxypropyl)fluorene, melting point 216° to 217° C.

reactant | 2,7-bis(phenyl-m-tolylamino)-9,9-bis[2-(methoxycarbonyl)ethyl]fluorene | 8.8 grams | C1(=CC=CC=C1)N(C1=CC=2C(C3=CC(=CC=C3C2C=C1)N(C=1C=C(C=CC1)C)C1=CC=CC=C1)(CCC(=O)OC)CCC(=O)OC)C=1C=C(C=CC1)C | C47H44N2O4
reactant | lithium aluminum hydride | 0.52 gram | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 150 milliliters | O1CCCC1 | C4H8O
product | 2,7-bis(phenyl-m-tolylamino)-9,9-bis(3-hydroxypropyl)fluorene | 7.8 grams | C1(=CC=CC=C1)N(C1=CC=2C(C3=CC(=CC=C3C2C=C1)N(C=1C=C(C=CC1)C)C1=CC=CC=C1)(CCCO)CCCO)C=1C=C(C=CC1)C | C45H44N2O2
